datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([N:3]([H:12])[H:13])([C:4](=[O:5])[H:14])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0](=[C:1]([H:9])[H:10])([H:7])[H:8].[C:2]([N:3]([H:12])[H:13])(=[C:4]([O:5][H:6])[H:14])[H:11],211.103
[C:0](=[C:1]([O:2][H:5])[H:4])[H:3].[C:6](=[O:7])[H:8]>>[C-:6]#[O+:7].[C:0](=[C:1]([O:2][H:5])[H:4])([H:3])[H:8],0.0
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8](=[C:9]([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])([H:11])[H:12]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:7]([C:8](=[C:9]([H:13])[H:14])[C:10]([H:15])([H:16])[H:17])([H:11])[H:12])([H:3])[H:4],39.748
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:9],42.4258
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([C:17]([H:26])([H:27])[H:28])([O:18][O:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:19][O:18][C:16]([C:15]([C:14]([H:20])([H:21])[H:22])([H:23])[H:24])([C:17]([H:26])([H:27])[H:28])[H:25],85.60464
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([C:15]([H:23])([H:24])[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:19])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([H:23])([H:24])[H:25])([H:16])([H:17])[H:18],95.7718
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:10],51.5469
[S:0]=[C:1]([C:2]([S:3][H:6])[H:5])[H:4].[S:7]([S:8][H:10])[H:9]>>[S:0]=[C:1]([C:2]([S:3][H:6])([H:5])[H:9])[H:4].[S:7][S:8][H:10],38.9112
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][O:12][H:13]>>[C:0]([C:1]([O:2][C:3]=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:11][O:12][H:13],58.19944
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2](=[S:3])[H:17])[H:4].[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])([H:15])[H:16],70.2912
[C:0]([S:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])([C:8]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10]>>[C:0]([S:1][H:11])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]([H:12])([H:13])[H:14])[C:8]([H:15])([H:16])[H:17])([H:9])[H:10],-2.3012
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6][S:7][H:10])([H:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6](=[C:5]([H:8])[H:9])[S:7][H:10],32.6352
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11],16.736
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([H:12])[H:13],31.2545
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:16])[H:15])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]1([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:11])[H:10],112.717
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29],16.736
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([S:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([S:1][S:6][C:5]([C:4]([H:7])([H:8])[H:9])([H:10])[H:11])([H:2])[H:3],-9.66504
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[O:4][O:5][C:6]([H:13])([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[O:4]1)([H:7])[H:8].[O:5][C:6]([H:13])([H:14])[H:15],63.953
[C:0](=[C:1]([C:2]=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1=[C:3]([H:13])[C:4]12[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]([H:17])=[C:9]2[H:18])[H:12])([H:10])[H:11],149.979664
